US06858739B2
[5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenyl](4-hydroxy-3-nitro-benzyl)-amine
4-Hydroxy-3-nitrobenzaldehyde (0.334 g, 2.0 mmol) was added to a stirred mixture of 5-(5,6-difluoro-1H-indol-2-yl)-2-methoxy-phenylamine (0.548 g, 2.0 mmol) in methylene chloride (125 mL), followed by acetic acid (0.2 g). The resulting mixture was stirred at room temperature for 1 hour. Sodium triacetoxyborohydride (0.47 g, 2.2 mmol) was added in one portion, and the resulting homogeneous solution stirred at room temperature for 7 days. Saturated aqueous sodium bicarbonate solution (100 mL) was added and the mixture stirred for 2 hours. The mixture was shaken, the organic layer separated and dried over Na2SO4. The solvent was evaporated to give an orange solid. Recrystallization from methanol gave the product (300 mg), mp 195-196° C.

reactant | 4-Hydroxy-3-nitrobenzaldehyde | 2.0 mmol, 0.334 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | 5-(5,6-difluoro-1H-indol-2-yl)-2-methoxy-phenylamine | 2.0 mmol, 0.548 g | FC=1C=C2C=C(NC2=CC1F)C=1C=CC(=C(C1)N)OC | C15H12F2N2O
reactant | Sodium triacetoxyborohydride | 2.2 mmol, 0.47 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
product | [5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenyl](4-hydroxy-3-nitro-benzyl)-amine | 300 mg | FC=1C=C2C=C(NC2=CC1F)C=1C=CC(=C(C1)NCC1=CC(=C(C=C1)O)[N+](=O)[O-])OC | C22H17F2N3O4
